US08022205B2
To dichloroethane solution (2 ml) of bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg, 0.185 mmol), triethylamine (780 μl, 5.56 mmol) and ethylisocyanate (780 μl, 5.56 mmol) were added, followed by refluxing for 6 hours. This was cooled to room temperature, followed by addition of saturated aqueous ammonium chloride solution, and passed through Whatman tube. The resulting organic layer was concentrated under reduced pressure, followed by purification by silica gel column chromatography (dichloromethane/methanol=100/1), to obtain 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid ethylamide (110.1 mg, Yield 97%). To this, trifluoroacetic acid (1 ml) and concentrated sulfuric acid (2 drops) were added, followed by stirring at 40° C. for 3 hours. After concentration of TFA under reduced pressure, water was added, followed by neutralization with 1M aqueous sodium hydroxide solution. The solid was filtered, followed by purification by silica gel column chromatography (dichloromethane/2M ammonia methanol=50/1), to obtain the desired compound as a yellow solid (20.9 mg, Yield 31%).

reactant | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 0.185 mmol, 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | triethylamine | 5.56 mmol, 780 μl | C(C)N(CC)CC | C6H15N
reactant | ethylisocyanate | 5.56 mmol, 780 μl | C(C)N=C=O | C3H5NO
reactant | ammonium chloride | [Cl-].[NH4+]
product | 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid ethylamide | 110.1 mg, Yield 97% | C(C)NC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C33H38N8O4
